US04548750
3-Amino-1-[4-chloro-2-(2-fluorobenzoyl)phenyl]propyne
Method B A mixture of 400 g (0.96 mole) of 1-[4-chloro-2-(2-fluorobenzoyl)phenyl]-3-phthalimidopropyne, 1.3 L of ethanol and 300 ml of 40% aqueous methylamine was stirred at room temperature for 2 hr. Dropwise 2.8 l of water was added, and the resulting precipitate was collected by filtration to give a pale yellow solid, mp 70°-80° C. Recrystallization from ether gave pale yellow prisms, mp 80°-91° C.

reactant | 1-[4-chloro-2-(2-fluorobenzoyl)phenyl]-3-phthalimidopropyne | 0.96 mole, 400 g | ClC1=CC(=C(C=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=C(C=CC=C2)F)=O | C24H13ClFNO3
reactant | ethanol | 1.3 L | C(C)O | C2H6O
reactant | methylamine | 300 ml | CN | CH5N
solvent | water | 2.8 l | O | H2O
product | 3-Amino-1-[4-chloro-2-(2-fluorobenzoyl)phenyl]propyne | NCC#CC1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)F)=O | C16H11ClFNO
